US05523442
A mixture of 2.12 g (10 mmol) of 2-fluoro-5-trimethylsilyl-benzoic acid and 1.78 g (15 mmol) of thionyl chloride is heated 2 hours at 60° C. Then gases and excess of thionyl chloride are removed under reduced pressure. To the crude material dissolved in 10 ml of acetone is added dropwise 6.5 g (10 mmol) of sodium azide in 10 ml of water and the mixture is stirred one hour at 0° C. Acetone is removed under reduced pressure and the acyl azide was extracted with ethyl acetate. The organic phase is dried over MgSO4 and ethyl acetate is removed under reduced pressure. To the acyl azide 20 ml of benzene is added and the reaction mixture is stirred 30 minutes at reflux. Then the solution is cooled to 0° C., 10 ml of concentrated hydrochloric acid is added and the mixture is heated 30 minutes at reflux. Benzene and water are removed under reduced pressure and the hydrochloride salt is recrystallized from isopropanol. To the salt dissolved in 10 ml of water is added 10 ml of 1N sodium hydroxide and the aqueous mixture is extracted with ethyl acetate. The organic layer is washed with brine, dried over MgSO4 and concentrated to obtain pure 2-fluoro-5-trimethylsilyl-aniline.

reactant | 2-fluoro-5-trimethylsilyl-benzoic acid | 10 mmol, 2.12 g | FC1=C(C(=O)O)C=C(C=C1)[Si](C)(C)C | C10H13FO2Si
reactant | thionyl chloride | 15 mmol, 1.78 g | S(=O)(Cl)Cl | Cl2OS
reactant | sodium azide | 10 mmol, 6.5 g | [N-]=[N+]=[N-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-fluoro-5-trimethylsilyl-aniline | FC1=C(N)C=C(C=C1)[Si](C)(C)C | C9H14FNSi
